US08309546B2
Step 3: 6-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine
Ethyl acetate (300 ml) was added to 6-chloropurine (25 g, 162 mmol) and tosylic acid monohydrate (460 mg, 2.43 mmol) and the resulting mixture was heated at 60° C. Dihydropyrane (16 ml, 178 mmol) was added and the resulting mixture was stirred at the same temperature for 30 minutes. The reaction mixture was cooled to room temperature followed by the addition of 28% aqueous ammonia solution (15 ml) and the organic layer was fractionated, washed with water, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (35 g, 91%) as a pale yellow solid.

reactant | 6-chloropurine | 162 mmol, 25 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | Dihydropyrane | 178 mmol, 16 ml | O1CCCC=C1 | C5H8O
reactant | ammonia | 15 ml | N | H3N
catalyst | tosylic acid monohydrate | 2.43 mmol, 460 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
solvent | Ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 35 g, 91% | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
